US04478833
2-(2-Hydroxyethyl-amino)-8-(5-hydroxypentyl-amino)-4-(1-oxido-thiomorpholino)-pyrimido[5,4-d]pyrimidine
This compound was prepared analogous to Example 2 from 2-chloro-8-(5-hydroxypentyl-amino)-4-(1-oxidothiomorpholino)-pyrimido[5,4-d]pyrimidine (melting point: 202°-204° C.) and 2-hydroxyethyl-amine.

reactant | 2-chloro-8-(5-hydroxypentyl-amino)-4-(1-oxidothiomorpholino)-pyrimido[5,4-d]pyrimidine | ClC=1N=C(C2=C(N1)C(=NC=N2)NCCCCCO)N2CCS(CC2)=O | C15H21ClN6O2S
reactant | 2-hydroxyethyl-amine | OCCN | C2H7NO
product | 2-(2-Hydroxyethyl-amino)-8-(5-hydroxypentyl-amino)-4-(1-oxido-thiomorpholino)-pyrimido[5,4-d]pyrimidine | OCCNC=1N=C(C2=C(N1)C(=NC=N2)NCCCCCO)N2CCS(CC2)=O | C17H27N7O3S
